Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Found down
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ man with no past medical 
history who presented after being found down.

History is taken from the patient with the assistance of a 
___ telephone translator. The patient reports that he has 
been in his usual state of health, without any fevers, chills, 
cough, shortness of breath or any other symptoms. Last night, he 
went out with a group of friends and they drank a bottle of 
whiskey between the four of them. He reports that he usually 
only drinks on the weekends and drinks about 6 beers over two 
days; he denies any history of alcohol abuse, alcohol withdrawal 
or seizures. He reports that he thinks that he walked home but 
is uncertain what happened next.

Per EMS, the patient was found on the ground lying next to 
another altered person with a laceration on their head who was 
minimally responsive. He was soaked with gasoline. He was given 
0.01 mg of naloxone in the field with no response. He was 
brought to the ED for further care.

In the ED, vitals: Tmax 100.5 79 117/74 16 93% RA
Exam notable for: 
- General-patient is responsive to noxious stimuli, he is 
becoming more responsive during his time in the emergency 
department 
- HEENT-pupils ___ bilaterally
- Lungs- snoring respirations, CTAB
- CV- RRR, no murmurs
- Abd- Soft, nontender, nondistended, no guarding, rebound or 
masses 
- Neuro-patient is responsive to noxious stimuli, withdraws from 
pain with all limbs
Labs notable for: WBC 7.0, Hb 14, plt 95; AST 86, ALT 54, lipase 
41; urine tox negative; serum tox with ETOH 481; lactate 
4.0->1.2 
Imaging: NCHCT, CXR
Patient given: Naloxone 0.04 mg IV, thiamine 100 mg PO, thiamine 
200 mg IV, Tylenol 1 g, ceftriaxone 1 g IV, azithromycin 500 mg 
IV, diazepam 40 mg PO, diazepam 20 mg PO, 5L LR

On arrival to the floor, the patient reports that he feels well 
and has no complaints. He denies any cough or shortness of 
breath.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Possible OSA
 
Social History:
___
Family History:
Brother: ___, metastatic prostate cancer
 
Physical Exam:
VITALS: 99.3 125/66 Lying 80 20 99 RA
GENERAL: Alert and in no apparent distress, diaphoretic
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect
 
Pertinent Results:
Labs:
___ 08:30PM BLOOD WBC: 7.0 RBC: 5.03 Hgb: 14.9 Hct: 45.9
MCV: 91 MCH: 29.6 MCHC: 32.5 RDW: 14.4 RDWSD: 48.0* Plt Ct: 95* 
___ 08:30PM BLOOD Neuts: 58.8 Lymphs: ___ Monos: 7.7 Eos:
2.7 Baso: 0.6 Im ___: 0.4 AbsNeut: 4.14 AbsLymp: 2.10 AbsMono:
0.54 AbsEos: 0.19 AbsBaso: 0.04 
___ 08:30PM BLOOD ___: 10.7 PTT: 31.3 ___: 1.0 
___ 08:30PM BLOOD Glucose: 115* UreaN: 14 Creat: 0.9 Na: 
143
K: 3.6 Cl: 108 HCO3: 17* AnGap: 18 
___ 08:30PM BLOOD ALT: 54* AST: 86* CK(CPK): 259 AlkPhos:
136* TotBili: 1.0 
___ 08:30PM BLOOD Lipase: 41 
___ 08:30PM BLOOD Albumin: 4.4 Calcium: 8.8 Phos: 4.1 Mg:
2.5 
___ 08:30PM BLOOD cTropnT: <0.01 

___ 08:40PM BLOOD Lactate: 3.3* 
___ 01:39AM BLOOD Lactate: 4.0* 
___ 05:43AM BLOOD Lactate: 2.7* 
___ 01:21PM BLOOD Lactate: 3.0* 
___ 09:28PM BLOOD Lactate: 1.2 

Micro:
- Blood cultures (___): pending
- Urine culture (___): pending

Imaging:

- NCHCT (___): IMPRESSION: No acute intracranial process 

- CXR (___): Reviewed by me. Bibasilar opacities.
 
Brief Hospital Course:
___ no PMH who presented after being found down, found to have 
alcohol  intoxication.

ACUTE/ACTIVE PROBLEMS:
# Transaminitis
# Thrombocytopenia
# Alcohol use disorder
# Alcohol withdrawal: 
   Mr. ___ was found down - and extensive workup did not 
reveal concerning medical cause other than being intoxicated.  
Head CT, EKG were negative.  Trop <0.01.  Urine tox were neg. 
His serum Ethanol level was 481.
   He denies h/o alcohol abuse or withdrawal and reports 
drinking only 6 beers per week.  He drank about one quarter of a 
bottle of whiskey on the evening of presentation; he denies any 
co-ingestions and urine and serum toxicology screens are 
otherwise negative.  It is possible that he is downplaying his 
Etoh use as he had evidence of anemia and mild transaminitis 
(AST>ALT) c/w Etoh use.  
   However, there were no signs of withdrawal here.  His CIWA 
were low and he did not require any extra valium.  Per his 
recollection, he claims that he simply slipped while inebriated 
during the rain.   SW was consulted, and reportedly, he had been 
found with gasoline because, he was helping his friend move - 
and while moving his motorcycle, gasoline had spilt on them.  He 
was stable throughout the night and was ambulatory, alert and 
appropriate. 

# Acute hypoxic respiratory failure, resolved:
# Aspiration pneumonitis: While in the ED, the patient was 
febrile to Tmax 100.5, and repeat CXR demonstrated bibasilar 
opacities. The patient denies any respiratory symptoms prior to 
admission, and upon arrival to the floor is weaned to room air.  
Suspect that this is most likely aspiration pneumonitis, and 
antibiotics were deferred.   He had no leukocytosis or fever - 
had good O2 sats on room air.  There were no need for abx

# Possible OSA: Patient reports snoring and witnessed nocturnal 
apneas.  He would benefit from Outpatient polysomnopgraphy test. 


GENERAL/SUPPORTIVE CARE:
# Nutrition/Hydration: Regular
# Functional status: Activity as tolerated
# Precautions: None
# Consulting Services: SW
# Contacts/HCP/Surrogate and Communication: See OMR
# Code Status/Advance Care Planning: Full presumed
# Disposition: 
- Anticipate discharge to: Home today. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Etoh intoxication
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,
   It was a pleasure looking after you.  As you know, you were 
admitted after being found down on the street.  There were 
initial concerns that you sustained a heart or brain related 
event which caused you to pass out.  However, after medical 
workup, it appears that the cause for you passing out was more 
related to a recent binge in alcohol drinking.

   There is some evidence that alcohol drinking may be affecting 
your liver and red blood cell count.  Please moderate its use, 
if possible.  Otherwise, there are no medication needs.  

    You would benefit from getting a sleep study when you find a 
doctor ___ treat the obstructive sleep apnea).   
     
    We wish you well and good health!

Your ___ team 
 
Followup Instructions:
___